US04228105
2-(p-Biphenylyl)-2-penten-4-one
To a 70° C. warm solution of 104.2 g 4-(p-biphenylyl)-4-hydroxypentan-2-one in a mixture of 450 ml methanol and 80 ml water 206 g ca. 65% sulphuric acid is added dropwise and the mixture is stirred 21/2 hours at 75° C. After cooling to 25° C. the resulting solid is filtered off, washed with water, then with diluted sodium hydroxide solution, again with water, dried and then recrystallised from toluene to give the title compound, m.p. 134°-136° C.

reactant | 4-(p-biphenylyl)-4-hydroxypentan-2-one | 104.2 g | C1(=C(C=CC=C1)C(CC(C)=O)(C)O)C1=CC=CC=C1 | C17H18O2
solvent | methanol | 450 ml | CO | CH4O
solvent | water | 80 ml, 206 g | O | H2O
product | 2-(p-Biphenylyl)-2-penten-4-one | C1(=C(C=CC=C1)C(C)=CC(C)=O)C1=CC=CC=C1 | C17H16O
